DBj_gidl_p

.INCLUDE 45nm_MGK_car2_gidlgisl.pm
.OPTIONS GMIN=1e-18 abstol=1e-19

*Definizione dei parametri  
.PARAM Lmin=45n   
.PARAM Wmin=45n 
.PARAM Ldiff=90n 
	  
*Descrizione della cella
Mp drain gate source body pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	drain	0   	-1V
Vg 	gate	alim	0V  
Vs 	source	0	-1V   
Vb 	body	alim	0V 
Vdd 	alim	0	-1.05V

*Definizione del tipo di analisi
.dc Vdd 0.0 1.2 0.1
.print all
.END
